US04382939
1,2,3,4-Tetrahydro-8-(1-methylethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrochloride
Prepared by the method described in Example 1 from 3-isopropylphenol (150 g, 0.66 moles) and 4-oxo-3-piperidinecarboxylate hydrochloride (114 g, 0.59 moles). Recrystallization from dilute aqueous hydrochloric acid yielded the product (46.6 g) as the hydrochloride, mp 257°-261° C.

reactant | 3-isopropylphenol | 0.66 moles, 150 g | C(C)(C)C=1C=C(C=CC1)O | C9H12O
reactant | 4-oxo-3-piperidinecarboxylate hydrochloride | 0.59 moles, 114 g | Cl.O=C1C(CNCC1)C(=O)O
product | 1,2,3,4-Tetrahydro-8-(1-methylethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrochloride | 46.6 g | Cl.CC(C)C1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | InChI=1S/C15H17NO2.ClH/c1-9(2)10-3-4-12-11-5-6-16-8-13(11)15(17)18-14(12)7-10;/h3-4,7,9,16H,5-6,8H2,1-2H3;1H
